US07994203B2
(±)-3-(2,4-Dichloro-phenyl)-2,6-dimethyl-7-(1-phenyl-propoxy)-pyrazolo[5,1-b]oxazole
To a stirring solution of triphenylphosphine (66.2 mg, 0.252 mmol) in THF (1.683 ml) under N2 at RT is added DEAD (0.040 ml, 0.252 mmol) followed by triethylamine (0.035 ml, 0.252 mmol), 1-phenyl-1-propanol (0.035 ml, 0.252 mmol) and 3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-ol (Intermediate IC) (50 mg, 0.168 mmol). The reaction mixture is stirred overnight and then added to sat. ammonium chloride (50 ml). The mixture is extracted with EtOAc (60 ml) and the combined organic phases are washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product is purified by ISCO combiflash chromatography, eluting with 0 to 100% (iso-hexane/EtOAc) on a 12 g SiO2-column to give the title compound as a solid; MS: m/z 415.21 [M+H]+; 1H NMR (400 MHz, CDCl3) δ 7.52 (2H, m), 7.35 (6H, m), 4.58 (1H, t), 2.25 (3H, s), 2.20 (3H, s), 2.15 (1H, m), 1.94 (1H, m), 1.05 (3H, t).

reactant | triphenylphosphine | 0.252 mmol, 66.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.252 mmol, 0.040 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triethylamine | 0.252 mmol, 0.035 ml | C(C)N(CC)CC | C6H15N
reactant | 1-phenyl-1-propanol | 0.252 mmol, 0.035 ml | C1(=CC=CC=C1)C(CC)O | C9H12O
reactant | 3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-ol | 0.168 mmol, 50 mg | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)O | C13H10Cl2N2O2
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | THF | 1.683 ml | C1CCOC1 | C4H8O
product | (±)-3-(2,4-Dichloro-phenyl)-2,6-dimethyl-7-(1-phenyl-propoxy)-pyrazolo[5,1-b]oxazole | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)OC(CC)C2=CC=CC=C2 | C22H20Cl2N2O2
